US06600067B2
For example, K. Moedritzer, R. R. Irani, J. Inorg. Nucl. Chem. 22 (1961) 297-304 describes by way of example a process which begins by reacting diethyl β-chloroethylphosphonate with potassium diethyl phosphonate to give tetraethyl ethylenediphosponate, which is then converted into the desired ethylenediphosphonic acid by hydrolysis with concentrated hydrochloric acid.

reactant | diethyl β-chloroethylphosphonate | ClCCP(OCC)(OCC)=O | C6H14ClO3P
reactant | potassium diethyl phosphonate | P(OCC)(OCC)=O.[K]
product | tetraethyl ethylenediphosponate | C(CP(OCC)(OCC)=O)P(OCC)(OCC)=O | C10H24O6P2
